US04233302
B. N,N-Dimethyl-5-[[3-[(1-methylthio-2-nitroethenyl)amino]propoxy]methyl]-2-furanmethanamine
To a stirred solution of 1,1-bis(methylthio)-2-nitroethene (3.96 g) in dry dioxan (25 ml) at 70° was added dropwise 5-[(3-aminopropoxy)methyl]-N,N-dimethyl-2-furanmethanamine (1.27 g). After 1 hr the reaction was allowed to cool and the solid which separated was filtered. The filtrate and washings were combined and evaporated to dryness, a solution of succinic acid (1 g) in water (25 ml) added to the residue and the suspension filtered. The filtrate was washed with ethyl acetate (2×40 ml) then evaporated to 10 ml. The solution was basified with sodium carbonate and the oily precipitate which separated was extracted into ethyl acetate (3×25 ml). The combined extracts were dried (anhyd. sodium carbonate), the suspension filtered and evaporated to dryness to yield the title compound (1.34 g) as a brown oil.

reactant | 1,1-bis(methylthio)-2-nitroethene | 3.96 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
reactant | 5-[(3-aminopropoxy)methyl]-N,N-dimethyl-2-furanmethanamine | 1.27 g | NCCCOCC1=CC=C(O1)CN(C)C | C11H20N2O2
solvent | dioxan | 25 ml | O1CCOCC1 | C4H8O2
product | N,N-Dimethyl-5-[[3-[(1-methylthio-2-nitroethenyl)amino]propoxy]methyl]-2-furanmethanamine | 1.34 g | CN(CC=1OC(=CC1)COCCCNC(=C[N+](=O)[O-])SC)C | C14H23N3O4S
